US07214802B2
A suspension of 380 mg (1.05 mmol) of 4-methyl-3-[2-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethylamino]-benzoic acid methyl ester and 203 mg (2.09 mmol) of KSCN in 4 mL of HOAc was stirred at 100° C. for 4 h, when a precipitate formed. The mixture was cooled to room temperature, filtered, and washed with cold MeOH to provide 283 mg of 3-[2-mercapto-4-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-imidazol-1-yl]-4-methyl-benzoic acid methyl ester (0.70 mmol; 67%). ESI MS m/z 405 [C22H20N4O2S+H]+.

reactant | 4-methyl-3-[2-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethylamino]-benzoic acid methyl ester | 1.05 mmol, 380 mg | COC(C1=CC(=C(C=C1)C)NCC(=O)C=1C=NN(C1C)C1=CC=CC=C1)=O | C21H21N3O3
reactant | KSCN | 2.09 mmol, 203 mg | C(#N)[S-].[K+]
solvent | HOAc | 4 mL | CC(=O)O | C2H4O2
product | 3-[2-mercapto-4-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-imidazol-1-yl]-4-methyl-benzoic acid methyl ester | 0.70 mmol, 283 mg, 67% | COC(C1=CC(=C(C=C1)C)N1C(=NC(=C1)C=1C=NN(C1C)C1=CC=CC=C1)S)=O | C22H20N4O2S
